US09314467B2
To a stirred solution of (E)-3-(3-(2,6-dimethylstyryl)phenyl)propan-1-amine (0.296 g, 1.10 mmol) in diethyl ether (15 mL) was added 1N HCl in diethyl ether (1.2 mL, 1.20 mmol), resulting in immediate precipitation of a white solid. The suspension was stirred for 1.5 h, filtered and dried under vacuum to afford 0.314 g (95%) of (E)-3-(3-(2,6-dimethylstyryl)phenyl)propan-1-amine hydrochloride as a light yellow solid: mp 135-136° C.; 1H NMR (500 MHz, CD3OD) δ 7.40 (d, J=11.0 Hz, 2H), 7.31 (t, J=7.6 Hz, 1H), 7.21 (s, 1H), 7.17-7.14 (m, 1H), 7.04 (s, 3H), 6.58 (d, J=16.6 Hz, 1H), 2.95 (t, J=7.7 Hz, 1H), 2.75 (t, J=7.6 Hz, 2H), 2.34 (s, 6H), 2.00 (quint, J=7.7 Hz, 2H), 1.90 (m, 2H); 13C NMR (75 MHz, CD3OD) δ 142.2, 139.4, 138.2, 137.1, 135.2, 130.0, 128.9, 128.7, 128.3, 127.9, 127.4, 125.4, 40.4, 33.5, 30.4, 21.2; ESI MS m/z 266 [M+H]+; HPLC (Method 2) >99% (AUC), tR=16.4 min. Calcd for C19H23N.HCl: C, 75.60; H, 8.01; N, 4.64. Found: C, 75.25; H, 7.99; N, 4.66.

reactant | (E)-3-(3-(2,6-dimethylstyryl)phenyl)propan-1-amine | 1.10 mmol, 0.296 g | CC1=C(/C=C/C=2C=C(C=CC2)CCCN)C(=CC=C1)C | C19H23N
reactant | HCl | 1N | Cl | ClH
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1.20 mmol, 1.2 mL | C(C)OCC | C4H10O
product | (E)-3-(3-(2,6-dimethylstyryl)phenyl)propan-1-amine hydrochloride | 0.314 g, 95% | Cl.CC1=C(/C=C/C=2C=C(C=CC2)CCCN)C(=CC=C1)C | InChI=1S/C19H23N.ClH/c1-15-6-3-7-16(2)19(15)12-11-18-9-4-8-17(14-18)10-5-13-20;/h3-4,6-9,11-12,14H,5,10,13,20H2,1-2H3;1H/b12-11+;
